US03988476
d. 5,6-Dimethyl-2-nitro-indane-1,3-dione
5,6-dimethyl indane-1,3-dione (0.52 g; 0.003 mole) suspended in anhydrous ether (5 ml.) was stirred at 10° C during the dropwise addition of fuming nitric acid (1.0 ml.). After the addition was complete the mixture was stirred at ambient temperature for 1 hr. and the precipitated yellow solid filtered. m.p. (water, hydrochloric acid) 111°-113° C. (Found: C, 60.11; H, 4.10; N, 6.14; C11H9NO4 requires: C, 60.28; H, 4.14; N, 6.39%).

reactant | 5,6-dimethyl indane-1,3-dione | 0.003 mole, 0.52 g | CC=1C=C2C(CC(C2=CC1C)=O)=O | C11H10O2
reactant | nitric acid | 1.0 ml | [N+](=O)(O)[O-] | HNO3
solvent | ether | 5 ml | CCOCC | C4H10O
product | 5,6-Dimethyl-2-nitro-indane-1,3-dione | CC=1C=C2C(C(C(C2=CC1C)=O)[N+](=O)[O-])=O | C11H9NO4
